US08604055B2
Step (iii): Synthesis of 6-(cyclobutylmethyl-ethyl-amino)-1,3-dimethyl-1H-pyrazolo[3,4-b]pyridine-5-carbaldehyde
Potassium carbonate (0.83 g, 6 mmol) was added to a solution of 6-chloro-1,3-dimethyl-1H-pyrazolo[3,4-b]pyridine-5-carbaldehyde (1.04 g, 5.0 mmol) and cyclobutylmethyl-ethyl-amine (0.8 g, 7.0 mmol) in anhydrous DMF (8 mL) under nitrogen. After stirring for 0.5 h at RT, the reaction mixture was heated for 14 h at 80° C. Thereafter, the reaction was cooled to RT, water (30 mL) and ethyl acetate (30 mL) were added, and the organic layer was separated from the aqueous mixture. The organic extract was washed with brine, dried over sodium sulfate and the solvent was evaporated in vacuo. The residue was purified by chromatography using silica gel (200-400 mesh) and eluted with 20-60% hexane:ethyl acetate to afford the title compound as a pale yellow liquid (1.23 g, yield: 87%).

reactant | Potassium carbonate | 6 mmol, 0.83 g | C([O-])([O-])=O.[K+].[K+]
reactant | 6-chloro-1,3-dimethyl-1H-pyrazolo[3,4-b]pyridine-5-carbaldehyde | 5.0 mmol, 1.04 g | ClC1=C(C=C2C(=N1)N(N=C2C)C)C=O | C9H8ClN3O
reactant | cyclobutylmethyl-ethyl-amine | 7.0 mmol, 0.8 g | C1(CCC1)CNCC | C7H15N
reactant | water | 30 mL | O | H2O
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
product | 6-(cyclobutylmethyl-ethyl-amino)-1,3-dimethyl-1H-pyrazolo[3,4-b]pyridine-5-carbaldehyde | 1.23 g, yield: 87% | C1(CCC1)CN(C1=C(C=C2C(=N1)N(N=C2C)C)C=O)CC | C16H22N4O
